US07544693B2
Ethyl 3-hydroxyfuro[3,2-b]pyridine-2-carboxylate (6.90 g, 25.8 mmol) was dissolved in 10% hydrochloric acid (50 mL), and heated under reflux for 3 h. Evaporation of the hydrochloric acid solution gave furo[3,2-b]pyridin-3(2H)-one hydrochloride (9.0 g). A portion of the furo[3,2-b]pyridin-3(2H)-one hydrochloride was converted to its free base by treatment with saturated sodium bicarbonate and extraction with chloroform in preparation for the following step.

reactant | Ethyl 3-hydroxyfuro[3,2-b]pyridine-2-carboxylate | 25.8 mmol, 6.90 g | OC1=C(OC=2C1=NC=CC2)C(=O)OCC | C10H9NO4
reactant | hydrochloric acid | 50 mL | Cl | ClH
product | furo[3,2-b]pyridin-3(2H)-one hydrochloride | 9.0 g | Cl.O1CC(C2=NC=CC=C21)=O | InChI=1S/C7H5NO2.ClH/c9-5-4-10-6-2-1-3-8-7(5)6;/h1-3H,4H2;1H
